US03983138
Anhydrous hydrogen chloride is bubbled through a mixture of 10 g. (0.072 mole) of N-propenylsuccinimide and 1.04 g. of stannic chloride for 6 hours. The solution is allowed to stand at room temperature for 10 days, the solution being saturated again with hydrogen chloride gas after 3 days and 4 days. Solvents are removed under reduced pressure at 30° - 40°C. to give 1-chloro-1-succinimidopropane as a yellow oil.

reactant | N-propenylsuccinimide | 0.072 mole | C(=CC)N1C(CCC1=O)=O | C7H9NO2
reactant | hydrogen chloride | Cl | ClH
product | 1-chloro-1-succinimidopropane | ClC(CC)N1C(CCC1=O)=O | C7H10ClNO2
